US04189761
This example shows the usefulness of this type of electrolyte system for tantalum foil. Methyltriethylammonium dimethylphosphate was prepared by reaction of 70.8 g. of trimethylphosphate and 50.5 g. of triethylamine in 50 ml. of acetonitrile and then removing the acetonitrile. The resistivity was 1020 Ω-cm. A 36% solution of this material is N,N-dimethylformamide had a resistivity of 85 ohm-cm, and the maximum formation voltage for tantalum foil at 25° C. was 145 V.

reactant | trimethylphosphate | COP(=O)(OC)OC | C3H9O4P
reactant | triethylamine | C(C)N(CC)CC | C6H15N
catalyst | tantalum | [Ta] | Ta
product | Methyltriethylammonium dimethylphosphate | COP(=O)(OC)[O-].C[N+](CC)(CC)CC | InChI=1S/C7H18N.C2H7O4P/c1-5-8(4,6-2)7-3;1-5-7(3,4)6-2/h5-7H2,1-4H3;1-2H3,(H,3,4)/q+1;/p-1
